US08378104B2
Step F: thieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate
A suspension of thieno[2,3-c]pyridin-5-ol (67.0 mg, 0.443 mmol) and triethylamine (68.3 μL, 0.487 mmol) in DCM (9 mL) was charged with N-phenylbis-(trifluoromethane-sulfonimide) (171 mg, 0.474 mmol) slowly at RT. This mixture was allowed to stir at RT for 16 h. After that time, additional triethylamine (50.0 μL, 0.357 mmol) and N-phenylbis(trifluoromethanesulphonimide) (100 mg, 0.257 mmol) were added. After stirring at RT for another 8 h, the mixture was concentrated in vacuo and purified by ISCO chromatography (0 to 30% EtOAc:heptane) to afford 114 mg (91%) of the title compound as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 8.90 (s, 1 H), 7.91 (d, J=6.0 Hz, 1 H), 7.59 (d, J=0.4 Hz, 1 H), 7.45 (dd, J=5.6, 0.8 Hz, 1 H); MS (ESI): 283.99 [M+H]+; HPLC tR=4.09 min (ZQ3: polar—5 min).

reactant | thieno[2,3-c]pyridin-5-ol | 0.443 mmol, 67.0 mg | S1C=CC=2C1=CN=C(C2)O | C7H5NOS
reactant | triethylamine | 0.487 mmol, 68.3 μL | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis-(trifluoromethane-sulfonimide) | 0.474 mmol, 171 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 0.357 mmol, 50.0 μL | C(C)N(CC)CC | C6H15N
reactant | N-phenylbis(trifluoromethanesulphonimide) | 0.257 mmol, 100 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | thieno[2,3-c]pyridin-5-yl trifluoromethanesulfonate | 114 mg, 91% | FC(S(=O)(=O)OC=1C=C2C(=CN1)SC=C2)(F)F | C8H4F3NO3S2
